US08664387B2
3-[(1S,2S)-2-Hydroxycyclohexyl]-6-[4-(1-hydroxypropyl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one
To a solution of 3-[(1S,2S)-2-hydroxycyclohexyl]-6-[4-(1-hydroxyprop-2-en-1-yl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one (0.010 g, 0.023 mmol) in 3 mL of methanol was added palladium on carbon (4.0 mg, 0.037 mmol). The mixture was placed under an atmosphere of hydrogen (1 atm) for 4 h and was then filtered through a pad of Celite, which was washed with MeOH. The filtrate was concentrated in vacuo to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 443.9 [M+H]+: 1H NMR (400 MHz, CDCl3 δ 9.37 (s, 1H), 8.63 (s, 1H), 8.56 (s, 1H), 8.26 (s, 1H), 8.08 (s, 1H), 7.26-6.88 (m, 4H), 4.65-4.45 (m, 3H), 4.07 (br s, 1H), 3.66-3.37 (m, 3H), 2.84 (br s, 1H), 2.31-2.23 (m, 1H), 2.07-1.67 (m, 5H), 1.40-0.86 (m, 5H).

reactant | 3-[(1S,2S)-2-hydroxycyclohexyl]-6-[4-(1-hydroxyprop-2-en-1-yl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one | 0.023 mmol, 0.010 g | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC1=CC=C(C=C1)C(C=C)O)C=NC=C3 | C27H27N3O3
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium on carbon | 0.037 mmol, 4.0 mg | [Pd] | Pd
product | 3-[(1S,2S)-2-Hydroxycyclohexyl]-6-[4-(1-hydroxypropyl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC1=CC=C(C=C1)C(CC)O)C=NC=C3 | C27H29N3O3
